US04705801
4-(2,3-Dichlorophenyl)-3-cyanopyrrole
6.4 g of N-acetyl-4-(2,3-dichlorophenyl)-3-trifluoromethylpyrrole, 15 ml of 25% aqueous ammonia solution and 60 ml of dioxane are stirred for 18 hours at 160° C. in an autoclave. The reaction mixture is cooled to room temperature and filtered, and the clear filtrate is concentrated by evaporation. The viscous residue is dissolved in ethyl acetate; the solution is washed firstly with water and then with a diluted sodium chloride solution; it is subsequently dried over sodium sulfate, filtered, and concentrated by evaporation. To the residue is added n-hexane, and the crystals which precipitate are filtered off and dried. The yield is 5.3 g of 4-(2,3-dichlorophenyl)-3-cyanopyrrole, m.p. 149°-150° C.

reactant | N-acetyl-4-(2,3-dichlorophenyl)-3-trifluoromethylpyrrole | 6.4 g | C(C)(=O)N1C=C(C(=C1)C1=C(C(=CC=C1)Cl)Cl)C(F)(F)F | C13H8Cl2F3NO
reactant | ammonia | 15 ml | N | H3N
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 4-(2,3-Dichlorophenyl)-3-cyanopyrrole | ClC1=C(C=CC=C1Cl)C=1C(=CNC1)C#N | C11H6Cl2N2
